US07417060B2
To a solution of tert-butyl [2-(4-bromophenyl)ethyl]-[(2R)-2-phenyl-2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-carbamate (620 mg) in 1,2-dimethoxyethane (7 ml) were added [3-(cyclohexyloxy)-4-(methoxycarbonyl)phenyl]boronic acid (410 mg), tetrakis(triphenylphosphine)palladium (99 mg) and aqueous solution of sodium carbonate (2M, 1.35 ml), and the mixture was stirred at 75° C. for 5 hours under nitrogen. The mixture was diluted with ethyl acetate and water. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=9/1) to give methyl 4′-[2-[(tert-butoxycarbonyl)[(2R)-2-phenyl-2-(tetrahydro-2H-pyran-2-yloxy)ethyl]amino]ethyl]-3-(cyclohexyloxy)-4-biphenylcarboxylate (672 mg).

reactant | tert-butyl [2-(4-bromophenyl)ethyl]-[(2R)-2-phenyl-2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-carbamate | 620 mg | BrC1=CC=C(C=C1)CCN(C(OC(C)(C)C)=O)C[C@H](OC1OCCCC1)C1=CC=CC=C1 | C26H34BrNO4
reactant | [3-(cyclohexyloxy)-4-(methoxycarbonyl)phenyl]boronic acid | 410 mg | C1(CCCCC1)OC=1C=C(C=CC1C(=O)OC)B(O)O | C14H19BO5
reactant | sodium carbonate | 2M, 1.35 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 7 ml | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 99 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 4′-[2-[(tert-butoxycarbonyl)[(2R)-2-phenyl-2-(tetrahydro-2H-pyran-2-yloxy)ethyl]amino]ethyl]-3-(cyclohexyloxy)-4-biphenylcarboxylate | 672 mg | C(C)(C)(C)OC(=O)N(CCC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)OC)OC1CCCCC1)C[C@H](OC1OCCCC1)C1=CC=CC=C1 | C40H51NO7
